US08729105B2
Preparation of (3-(Trifluoromethyl)isoxazol-5-yl)methanol
To a solution of hydroxylamine hydrochloride (0.694 g 0.010 mol, 1 equ) and 0.02 g sodium hydroxide in 25 mL methanol was added 5-(tert-butyldimethylsilyloxy)-1,1,1-trifluoropent-3-yn-2-one (2.66 g 0.010 mol, 1 equ) and the mixture was heated to reflux for 3 h. The reaction mixture was extracted with ethyl acetate and purified by chromatography on silica gel (50 g) using a gradient of heptane:ethyl acetate=9:1 to 1:1. to yield 0.524 g of the title compound as colorless oil, MS 167(M)+.

reactant | hydroxylamine hydrochloride | 0.010 mol, 0.694 g | Cl.NO
reactant | sodium hydroxide | 0.02 g | [OH-].[Na+]
reactant | 5-(tert-butyldimethylsilyloxy)-1,1,1-trifluoropent-3-yn-2-one | 0.010 mol, 2.66 g | [Si](C)(C)(C(C)(C)C)OCC#CC(C(F)(F)F)=O | C11H17F3O2Si
solvent | methanol | 25 mL | CO | CH4O
product | (3-(Trifluoromethyl)isoxazol-5-yl)methanol | 0.524 g | FC(C1=NOC(=C1)CO)(F)F | C5H4F3NO2
